US04447259
A mixture of 2,4-dichloro-bromobenzene (22.6 g), N-[(±)-2-(4-hydroxyphenoxy)propionyl]isoxazolidine (23.7 g) which was prepared as in Example 3, anhydrous potassium carbonate (14.5 g) and dimethylsulfoxide (200 ml) was stirred at 120° C. for 4 hours. After the reaction mixture was cooled, water and benzene were added thereto whereby to form two layers. The organic layer so separated was washed with 1 N aqueous sodium hydroxide solution and then with water and dried over anhydrous sodium sulfate. Removal of the solvent by a distillation in vacuo gave N-[(±)-2-[4-(2,4-dichlorophenoxy)phenoxy]propionyl]isoxazolidine (30.9 g) as a pale yellow crystalline solid. Recrystallization from a mixture of n-hexane/ethyl acetate yielded a white crystalline solid. m.p. 115°-118° C.

reactant | 2,4-dichloro-bromobenzene | 22.6 g | ClC1=C(C=CC(=C1)Cl)Br | C6H3BrCl2
reactant | N-[(±)-2-(4-hydroxyphenoxy)propionyl]isoxazolidine | 23.7 g | OC1=CC=C(OC(C(=O)N2OCCC2)C)C=C1 | C12H15NO4
reactant | potassium carbonate | 14.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylsulfoxide | 200 ml | CS(=O)C | C2H6OS
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | N-[(±)-2-[4-(2,4-dichlorophenoxy)phenoxy]propionyl]isoxazolidine | 30.9 g | ClC1=C(OC2=CC=C(OC(C(=O)N3OCCC3)C)C=C2)C=CC(=C1)Cl | C18H17Cl2NO4
